US06953801B2
A quantity of 0.25 g (1.0 mmoles, 1 eq) of 6-bromo-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide and 0.28 g (1.5 mmoles, 1.5 eq) of 3,4-dimethoxyphenyl boronic acid are added in 20 mL of ethylene glycol dimethyl ether with 2 ml of ethanol and 2 ml of 2 M Na2CO3. The mixture is purged with N2 for 20 minutes, and then 57 mg (0.05 mmoles, 0.05 eq) of Tris (dibenzylideneacetone)-dipalladium (0) is added. The reaction is heated at 80° C. for 6 hours. At that time there is no starting material shown on TLC. The reaction is filtered through Celite and the solvent is removed. The residue is taken in ethyl acetate, washed with brine, dried over Na2SO4 and concentrated to afford 6-(3,4-dimethoxy-phenyl)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide as a yellowish oil (0.21 g, 69%), which is used in the next step without purification. Analysis: MS (LC-MS): Calculated for C16H18N2O4 302.33, found 303.39 (M+1).

reactant | 6-bromo-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | 1.0 mmoles, 0.25 g, 1 eq | OCCNC(=O)C1=NC(=CC=C1)Br | C8H9BrN2O2
reactant | 3,4-dimethoxyphenyl boronic acid | 1.5 mmoles, 0.28 g, 1.5 eq | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | Na2CO3 | 2 M, 2 ml | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 20 mL | COCCOC | C4H10O2
catalyst | Tris (dibenzylideneacetone)-dipalladium (0) | 0.05 mmoles, 57 mg, 0.05 eq | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | 6-(3,4-dimethoxy-phenyl)-pyridine-2-carboxylic acid (2-hydroxy-ethyl)-amide | 0.21 g, 69% | OCCNC(=O)C1=NC(=CC=C1)C1=CC(=C(C=C1)OC)OC | C16H18N2O4
